US06231784B1
Preparation of Benzyl 2-Butoxyethyl Ether
A mixture of 8.1 g of 60% sodium hydride (0.2 moles) in mineral oil, 20 ml of toluene and 100 ml of tetrahydrofuran was prepared. To this 23.6 g of 2-butoxyethanol (0.2 moles) was added over a 5 minute period of time. The resultant mixture was heated at reflux temperature for one hour after which 25.2 g of benzylchloride (0.2 moles) was added. The reaction mixture was heated at ref lux temperature for an additional hour. Any unreacted sodium hydride was destroyed by the addition of 10 ml of methanol. The cooled reaction mixture was diluted with hexane and washed with water. The aqueous phase was back washed with hexane which was combined with the first hexane extract and stripped of volatiles at reduced pressure to leave 44 g of product which contained about 80% benzyl-2-butoxyethyl ether, 6% 2-butoxyethanol, 7% benzylchloride and 3% methyl benzyl ether. This was distilled to yield 1.4 g of forecut, BP to 80° C. @ 0.6 mm which was discarded and 34 g of heart cut, BP 80° C. @ 0.6 mm. The heart cut was judged to contain about 91% desired product.

reactant | benzyl-2-butoxyethyl ether | C(C1=CC=CC=C1)C(COCC(CC1=CC=CC=C1)OCCCC)OCCCC | C26H38O3
reactant | 2-butoxyethanol | C(CCC)OCCO | C6H14O2
reactant | benzylchloride | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | methyl benzyl ether | C(C1=CC=CC=C1)OC | C8H10O
product | Benzyl 2-Butoxyethyl Ether | about 91% | C(CCC)OCCOCC1=CC=CC=C1 | C13H20O2
